Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Malnourishment
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with a PMHx of Crohn's disease, malnutrition, ascending 
colon narrowing/stricture, neuropathy, anemia, depression and 
other issues who presents as a direct admission for management 
of severe malnutrition. Pt with most recent BMI of 15.8 and 
albumin 1.7. At the time of her most recent GI appointment, she 
had lost another 3 lbs.  In discussion with her 
gastroenterologist (Dr. ___ and colorectal surgeon (Dr. 
___, plan was made for admission for venous access and 
initiation of TPN to monitor for refeeding syndrome.  

Currently, patient feels comfortable and has no complaints.  
 
ROS:  
No fevers, chills, night sweats. No changes in vision or 
hearing, no changes in balance. No cough, no shortness of 
breath, no dyspnea on exertion. No chest pain or palpitations. 
No nausea or vomiting. No diarrhea or constipation. No dysuria 
or hematuria. No hematochezia, no melena. No numbness or 
weakness, no focal deficits.  
 
Past Medical History:
-Crohn's disease: Diagnosed in her ___, was on Infliximab but 
progressed, required resection of portion of small bowel around 
___.  Was then on Adalimumab but stopped ___ years ago due to 
loss of insurance.  Was then on no biologics for several years 
and was started on Budesonide in ___.
-Depression
-Malnourishment
-Neuropathy
-Anemia
 
Social History:
___
Family History:
PGM with chronic diarrheal illness, father died of colitis 
(unspecified type)
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================

VS: 97.8 116/68 72 18 99% RA
GEN: Alert, seated in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, temporal wasting, no 
conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, protuberant/distended, non-tender, bowel sounds 
present  
EXTREM: Warm, well-perfused, trace pitting edema to mid-shins 
bilaterally
NEURO: CN II-XII grossly intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM:
========================

Unable to be performed
 
Pertinent Results:
PERTINENT LABS:
===============

___ 07:45PM BLOOD WBC-4.9 RBC-4.20 Hgb-10.5* Hct-32.8* 
MCV-78*# MCH-25.0* MCHC-32.0 RDW-17.1* RDWSD-47.6* Plt ___
___ 07:45PM BLOOD ___ PTT-31.6 ___
___ 07:45PM BLOOD Glucose-97 UreaN-27* Creat-0.7 Na-133 
K-4.5 Cl-102 HCO3-28 AnGap-8
___ 07:45PM BLOOD ALT-21 AST-23 LD(LDH)-165 AlkPhos-183* 
TotBili-0.1
___ 07:45PM BLOOD Albumin-1.5* Calcium-7.4* Phos-3.9 Mg-1.___ with a PMHx of Crohn's disease, malnutrition, ascending 
colon narrowing/stricture, neuropathy, anemia, depression and 
other issues who presents as a direct admission for port 
placement and initiation of TPN.

ACTIVE ISSUES:
==============

# Malnourishment: 
Likely secondary to malabsorption from Crohn's disease.  Patient 
reports having a good appetite and that she has felt hungrier 
since starting Budesonide in ___.  Despite this, her most 
recent BMI in clinic was 15.8, and albumin was 1.7. In 
discussion with her gastroenterologist (Dr. ___ and 
colorectal surgeon (Dr. ___, plan was made for admission for 
venous access and initiation of TPN to monitor for refeeding 
syndrome.  On arrival, she was comfortable and had no 
complaints.  However, approximately three hours later, the 
patient became very frustrated over delays in her care and was 
adamant about leaving the hospital.  When this examiner returned 
to address patient's concerns, she voiced dissatisfaction over 
not receiving a nicotine patch ordered on admission in a timely 
fashion.  She reported that she always smokes at night and did 
not think it was fair to be made to suffer without nicotine 
replacement.  This examiner apologized for the delay and offered 
to provide additional nicotine replacement aides (lozenges or 
gum) to make staying in the hospital more acceptable to her, but 
the patient refused.  She also voiced frustration and 
considerable anxiety over being told by an RN that she was going 
to have "surgery" tomorrow when provided with a chlorhexidine 
scrub.  This examiner discussed at length with the patient the 
nature of the two options for establishing venous access for TPN 
(either PICC or port placement) on admission and answered her 
questions to her satisfaction.  

The patient clearly had capacity to leave against medical 
advice.  She was able to articulate the risks and benefits of 
staying in the hospital and of going home.  The circumstances of 
her departure were discussed with the attending physician, who 
attempted to reach the patient by phone to discuss her concerns 
with her; however, the patient declined to answer.  The patient 
left the hospital shortly thereafter.  

CHRONIC ISSUES:
===============

# Crohn's disease: 
Patient reports that she was diagnosed in her ___, was 
previously on Infliximab but her disease progressed, requiring 
resection of a portion of her small bowel around ___.  She was 
then on Adalimumab for several years but stopped ___ years ago 
due to loss of insurance.  She was then on no biologics for 
several years and was started on Budesonide in ___.  She 
reports feeling increased appetite since starting budesonide.  
On admission she reported gaining approximately 6 pounds since 
her last GI clinic visit; however, she has also reported 
increased fluid retention and ___ edema.

# CODE STATUS: Full  
# CONTACT:  Patient reports having no emergency contact 

TRANSITIONAL ISSUES:
====================
 - Patient with limited social supports and would likely benefit 
from social work consultation (e.g, lives alone, reported having 
no one in her life who could serve as her emergency contact).  
She may also benefit from social work assistance with disease 
coping.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. meloxicam 15 mg oral DAILY:PRN pain 
2. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
3. Mirtazapine 30 mg PO QHS 
4. Cyclobenzaprine 10 mg PO TID:PRN spasm 
5. Furosemide 20 mg PO DAILY 
6. Spironolactone 25 mg PO DAILY 
7. Omeprazole 40 mg PO BID 
8. budesonide 9 mg oral DAILY 
9. Magnesium Oxide 400 mg PO BID 
10. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
11. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 

 
Discharge Medications:
Patient left AMA; medication list unchanged
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Patient left AMA
 
Discharge Condition:
Patient left AMA
 
Discharge Instructions:
Patient left AMA
 
Followup Instructions:
___